US07301029B2
Synthesis of 5-nitro-2,4′-bipyridine [(I)-1]
3-(Dimethylamino)-2-nitro-2-propenal (60.5 g) was dissolved in tetrahydrofuran (500 ml). To the resulting solution were added 4-acetylpyridine (48.5 g) and potassium t-butoxide (121.14 g), for agitation at 30° C. for 30 minutes. After ammonium acetate (185 g) and acetic acid (140 ml) were added, reaction was progressed at an inner temperature of 95° C. for 4 hours while tetrahydrofuran was distilled off. To the reaction solution was added aqueous 25% NaOH solution (400 ml), for crystallization. The resulting crystal was dried to obtain the object compound in pale dark brown crystal (58 g; yield of 72%).

reactant | 3-(Dimethylamino)-2-nitro-2-propenal | 60.5 g | CN(C=C(C=O)[N+](=O)[O-])C | C5H8N2O3
reactant | 4-acetylpyridine | 48.5 g | C(C)(=O)C1=CC=NC=C1 | C7H7NO
reactant | potassium t-butoxide | 121.14 g | CC(C)([O-])C.[K+]
reactant | ammonium acetate | 185 g | C(C)(=O)[O-].[NH4+]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 140 ml | C(C)(=O)O | C2H4O2
product | 5-nitro-2,4′-bipyridine | yield of 72% | [N+](=O)([O-])C=1C=CC(=NC1)C1=CC=NC=C1 | C10H7N3O2
